US07026475B2
Synthesis of [2-(1,1-dioxo-1H-3H-1λ6-naphtho[1,8-de]thiazine-2-yl)ethyl]dimethylamine
0.028 g of sodium hydride is suspended in 0.5 mL of dimethylformamide and 0.073 g of 2,3-dihydro-naphtho[1,8-de][1,3]thiazine-1,1-dioxide in 1 mL of dimethylformamide is added. Then 0.053 g of diethylaminoethyl chloride-hydrochloride are added batchwise. The reaction mixture is stirred for 18 hours at ambient temperature and then poured onto ice water. The mixture is extracted with dichloromethane and the organic extracts collected are dried with sodium sulfate. After evaporation in vacuo, the residue obtained is purified by chromatography. Yield: 0.035 g; m.p.: 97° C.–98° C.

reactant | sodium hydride | 0.028 g | [H-].[Na+]
reactant | 2,3-dihydro-naphtho[1,8-de][1,3]thiazine-1,1-dioxide | 0.073 g | S1(CNC2=C3C1=CC=CC3=CC=C2)(=O)=O | C11H9NO2S
reactant | diethylaminoethyl chloride-hydrochloride | 0.053 g | Cl.C(C)N(CC)CCCl
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | [2-(1,1-dioxo-1H-3H-1λ6-naphtho[1,8-de]thiazine-2-yl)ethyl]dimethylamine | O=S1(N(CC2=C3C1=CC=CC3=CC=C2)CCN(C)C)=O | C15H18N2O2S
